US07547697B2
(1SR,8RS)-5-(2,2-Dimethyl-propyl)-6,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
yellow solid. MS (ESI): 259.3 (MH+). Prepared from 7,7-dimethyl-bicyclo[2.2.l]heptane-2,3-dione, (1,4,4-trimethyl-2-oxo-pentyl)-phosphonic acid diethyl ester, hydrazine monohydrate.

reactant | 7,7-dimethyl-bicyclo[2.2.l]heptane-2,3-dione | CC1(C2C(C(C1CC2)=O)=O)C | C9H12O2
reactant | (1,4,4-trimethyl-2-oxo-pentyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(C(CC(C)(C)C)=O)C | C12H25O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(2,2-Dimethyl-propyl)-6,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | CC(CC1=NN=C2C3CCC(C2=C1C)C3(C)C)(C)C | C17H26N2
